US08664401B2
Tert-butyl(diphenyl){2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethoxy}silane (4.66 g, 10.6 mmol) was dissolved in tetrahydrofuran (50 mL) and tetrabutylammonium fluoride (1.0 N in tetrahydrofuran, 1.66 mL, 10.6 mmol). The reaction was stirred at room temperature overnight. The reaction was evaporated in vacuo and purified on silica gel with a heptane-ethyl acetate gradient (10% ethyl acetate, then 50% ethyl acetate) to give 2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethanol (2.14 g, 100%) as a yellow oil. Partial 1H NMR indicated a ˜4:1 mix of unknown cis-trans isomers. (CDCl3, δ ppm, key peaks are 4.07 (m, 0.80H), 4.35 (m, 0.20H), 4.54 (m, 0.20H), 4.56 (m, 0.80H).

reactant | Tert-butyl(diphenyl){2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethoxy}silane | 10.6 mmol, 4.66 g | C(C)(C)(C)[Si](OCCC1CC(C1)OC1OCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H38O3Si
reactant | tetrabutylammonium fluoride | 10.6 mmol, 1.0 N, 1.66 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-[3-(tetrahydro-2H-pyran-2-yloxy)cyclobutyl]ethanol | 2.14 g, 100% | O1C(CCCC1)OC1CC(C1)CCO | C11H20O3
